US04191776
[1-(2'-Chloro-4-biphenylyl)-ethylsulfinyl]-acetic acid
50 gm (0.163 mol) of [1-(2'-chloro-4-biphenylyl)-ethylthio]-acetic acid were suspended in 163 ml of glacial acetic acid and 16.0 gm (0.171 mol) of 36.3% hydrogen peroxide were added dropwise to the suspension at 10° C. while vigorously stirring. Afterwards, the mixture was allowed to stand overnight at room temperature, during which time the starting compound dissolved. Subsequently, 500 ml of water were added, the reaction product was extracted with ethyl acetate, and the organic solvent was removed from the extract in vacuo, leaving 45.1 gm (85% of theory) of the title compound, m.p. 144°-147° C. (from ethyl acetate).

reactant | [1-(2'-chloro-4-biphenylyl)-ethylthio]-acetic acid | 0.163 mol, 50 gm | ClC1=C(C=CC=C1)C1=CC=C(C=C1)C(C)SCC(=O)O | C16H15ClO2S
reactant | hydrogen peroxide | 0.171 mol, 16.0 gm | OO | H2O2
reactant | water | 500 ml | O | H2O
solvent | acetic acid | 163 ml | C(C)(=O)O | C2H4O2
product | [1-(2'-Chloro-4-biphenylyl)-ethylsulfinyl]-acetic acid | ClC1=C(C=CC=C1)C1=CC=C(C=C1)C(C)S(=O)CC(=O)O | C16H15ClO3S
